US09169254B2
Trifluoroacetic acid (27 ml) was added to a solution of 2-(3-but-3-enyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester (2.39 g, 5.12 mmol) in methylene chloride (54 ml), and the mixture was stirred at room temperature for 1.5 hours. The reaction solution was concentrated under reduced pressure with azeotropic distillation with toluene, and the resulting residue (trifluoroacetate) was then dissolved in methanol (50 ml). A 4 N solution of hydrochloric acid in dioxane (16 ml) was added and the mixture was concentrated under reduced pressure. The resulting residue was dissolved in a mixed solution of ethyl acetate (100 ml)-ethanol (5 ml), followed by washing with a 1 N aqueous K3PO4 solution. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure to give 2-(3-but-3-enyloxy-5-trifluoromethyl-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (1.92 g). This compound was used in the next reaction without further purification.

reactant | Trifluoroacetic acid | 27 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(3-but-3-enyloxy-5-trifluoromethyl-phenyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester | 5.12 mmol, 2.39 g | C(C)(C)(C)OC(=O)N1CCC2(C(NC(=N2)C2=CC(=CC(=C2)C(F)(F)F)OCCC=C)=O)CC1 | C23H28F3N3O4
solvent | methylene chloride | 54 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-but-3-enyloxy-5-trifluoromethyl-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 1.92 g | C(CC=C)OC=1C=C(C=C(C1)C(F)(F)F)C1=NC2(C(N1)=O)CCNCC2 | C18H20F3N3O2
